US08476297B2
Step 4: 3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline
(R)—N-((2-(2,2-Dimethoxypropyl)phenyl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide (6.650000 g, 15 mmol) was dissolved in 150 mL of DCE and hydrogen chloride, 4.0 m solution in 1,4-dioxane (11 mL, 44 mmol) was added. Stirring was continued for 20 min and trimethyl orthoformate (8.0 mL, 73 mmol) and sodium triacetoxyborohydride (11 g, 51 mmol) were added. TLC-analysis showed a complex product mixture but LCMS showed the formation of some desired product along with a lot of fully aromatized product. The crude was semi-purified via glass colm chrom and used w/o further clean up in the next steps. MS (ESI, positive ion) m/z: 292.0 (M+1)

reactant | (R)—N-((2-(2,2-Dimethoxypropyl)phenyl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide | 15 mmol, 6.650000 g | COC(CC1=C(C=CC=C1)C(N[S@](=O)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)(C)OC | C23H30F3NO3S
reactant | 1,4-dioxane | 44 mmol, 11 mL | O1CCOCC1 | C4H8O2
reactant | trimethyl orthoformate | 73 mmol, 8.0 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium triacetoxyborohydride | 51 mmol, 11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 150 mL | ClCCCl | C2H4Cl2
solvent | hydrogen chloride | Cl | ClH
product | 3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | CC1NC(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F | C17H16F3N
